US04898949
3,3-Bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal
A solution of 1,1-bis(4-fluoro-3-methylphenyl)-2-(1-methyltetrazol-5-yl)ethene (3.58 g, 11.0 mmoles)) in dry tetrahydrofuran (20 mL) at -78° C. was treated with n-butyllithium (5.3 ml of 2.5M solution in hexane; 13.25 mmoles) and the mixture stirred at -78° C. for 0.5 hours. Ethyl formate (1.33 ml; 1.22 g, 16.5 mmoles) was added and the mixture was allowed to warm up to 23° C. over 1 hour, then quenched with 2N HCl (250 mL). The aqueous phase was extracted with ethyl acetate (3×50 mL) and the combined organic layers were dried (MgSO4) and evaporated. The residue was purified by chromatography using 20% EtOAc-Hexane as eluent to afford 2.2 g (57%) of the title compound as a foam. MS (CI): m/e=355 for (M+H)+.

reactant | 1,1-bis(4-fluoro-3-methylphenyl)-2-(1-methyltetrazol-5-yl)ethene | 11.0 mmoles, 3.58 g | FC1=C(C=C(C=C1)C(=CC1=NN=NN1C)C1=CC(=C(C=C1)F)C)C | C18H16F2N4
reactant | n-butyllithium | 13.25 mmoles, 2.5M, 5.3 ml | C(CCC)[Li]
reactant | Ethyl formate | 16.5 mmoles, 1.33 ml, 1.22 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3,3-Bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 2.2 g, 57% | FC1=C(C=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=CC(=C(C=C1)F)C)C | C19H16F2N4O
